US07514566B2
tert-butyl (2S,3S)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate
To tert-butyl (2S,3S)-1-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate (2000 mg, 4.5 mmol) in 25 mL ether at 0° C. was added 1.0 M tetrabutylammonium fluoride in THF (8.9 mL, 8.9 mmol). After the addition, the ice-bath was taken away. The reaction progress was monitored by TLC. After 60 minutes, the solvent was evaporated and 100 mL diethyl ether was added. The organic layer was washed with water and brine solution, and then dried over sodium sulfate. The crude product was then chromatographed eluting with 30% EtOAc in hexane. After removing the solvent, the desired product was obtained as a white solid (1.25 g, 84%). 1H NMR (400 MHz, CD3OD) δ ppm 1.26-1.31 (m, 9H) 1.34 (d, J=7.04 Hz, 3H) 3.02-3.13 (m, 1H) 3.61-3.67 (m, 2H) 3.75 (dd, J=8.71, 4.60 Hz, 1H) 7.44 (d, J=8.02 Hz, 2H) 7.57 (d, J=8.22 Hz, 2H).

reactant | tert-butyl (2S,3S)-1-(tert-butyldimethylsilyloxy)-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | 4.5 mmol, 2000 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@@H](C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C22H36F3NO3Si
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 8.9 mmol, 8.9 mL | C1CCOC1 | C4H8O
solvent | ether | 25 mL | CCOCC | C4H10O
product | tert-butyl (2S,3S)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | OC[C@H]([C@@H](C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H22F3NO3
